US05025031
Ethylsulfamic acid 3-(2-methoxyphenoxy)propyl ester
A solution of 19.8 g (0.1 mole) of glyceryl guaiacolate in 100 ml of methylene chloride and 21.6 ml (0.26 mole) of pyridine was added in a thin stream to a stirred solution of 37.3 g (0.26 mole) of ethysulfamoyl chloride (prepared using procedure of Example 2, pt. a) in 150 ml of methylene chloride, and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was treated with 150 ml of 2N hydrochloric acid solution, and the layers were separated. The organic layer was washed with 150 ml of 2N hydrochloric acid solution, twice with 150 ml portions of water, dried (magnesium sulfate), and the solvent was evaporated under reduced pressure. The residue was purified by chromatography (4.5×90 cm glass column; 500 g of silica gel; methylene chloride-acetone, 25:1). Fractions containing the product were combined, and the solvents wre evaporated under reduced pressure to give 20.2 g (49%) of the title compound as a light-yellow, viscous oil containing a trace of methylene chloride.

reactant | glyceryl guaiacolate | 0.1 mole, 19.8 g | COC=1C=CC=CC1OCC(CO)O | C10H14O4
reactant | pyridine | 0.26 mole, 21.6 ml | N1=CC=CC=C1 | C5H5N
reactant | ethysulfamoyl chloride | 0.26 mole, 37.3 g | C(C)NS(=O)(=O)Cl | C2H6ClNO2S
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Ethylsulfamic acid 3-(2-methoxyphenoxy)propyl ester | 20.2 g, 49% | COC1=C(OCCCOS(NCC)(=O)=O)C=CC=C1 | C12H19NO5S
